US04579848
3-(4-Chloro-2-pyrimidinyl)benzenemethanol
A 1.0 g portion of 3-(4-chloro-2-pyrimidinyl)benzaldehyde was dissolved in 230 ml of 2-propanol and 0.32 g of freshly ground sodium borohydride pellets was added. After stirring for 3 hours at 50°-60° C. in a water bath, the excess reducing agent was destroyed with 6N hydrochloric acid. The solution was neutralized with sodium bicarbonate and the mixture concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate and then evaporated, giving 1.1 g of the desired intermediate as a colorless oil.

reactant | 3-(4-chloro-2-pyrimidinyl)benzaldehyde | ClC1=NC(=NC=C1)C=1C=C(C=O)C=CC1 | C11H7ClN2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | 2-propanol | 230 ml | CC(C)O | C3H8O
product | 3-(4-Chloro-2-pyrimidinyl)benzenemethanol | 1.1 g | ClC1=NC(=NC=C1)C=1C=C(C=CC1)CO | C11H9ClN2O
